US07795255B2
Nitrophenol (43.6 mg, 0.31 mmol) and 5-bromofurfural (50 mg, 0.28 mmol) were dissolved in dry DMF (10 ml), anhydrous K2CO3 (81 mg, 0.39 mmol) was added thereto and the resulting mixture was heated under nitrogen atmosphere at 80° C. for 5 hours. The solvent was then evaporated under reduced pressure and a mixture of water (40 ml) and ether (10 ml) was added. After separation of the phases the aqueous phase was extracted with ether (2×10 ml), the combined organic phase was dried over Na2SO4 and the organic solvents were evaporated under reduced pressure. The crude product was purified by silica gel flash chromatography to give 25 mg of pure 5-(4-nitro-phenoxy)-furan-2-carbaldehyde (38% yield).

reactant | Nitrophenol | 0.31 mmol, 43.6 mg | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | 5-bromofurfural | 0.28 mmol, 50 mg | BrC1=CC=C(C=O)O1 | C5H3BrO2
reactant | K2CO3 | 0.39 mmol, 81 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(4-nitro-phenoxy)-furan-2-carbaldehyde | 25 mg, 38% yield | [N+](=O)([O-])C1=CC=C(OC2=CC=C(O2)C=O)C=C1 | C11H7NO5
